US06333330B1
5-Methyl-2-(tri-n-butylstannyl)pyridine
n-Butyllithium (12.8 ml, 2.5M in hexanes, 32.6 mmol) was added dropwise to a cooled (−78° C.) solution of 2-bromo5-methylpyridine (5.0 g, 29.1 mmol), and the solution stirred for an hour. Tri-n-butyltin chloride (9.5 ml, 34.9 mmol) was then added and the reaction allowed to warm to room temperature, and stirred for 18 hours. The reaction mixture was evaporated under reduced pressure and the residue purified by column chromatography on silica gel using an elution gradient of pentane:ethyl acetate (100:0 to 90:10) to give the title compound, (6.5 g, 58%) as a yellow oil.

reactant | n-Butyllithium | 32.6 mmol, 2.5M, 12.8 ml | C(CCC)[Li]
reactant | 2-bromo5-methylpyridine | 29.1 mmol, 5.0 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | Tri-n-butyltin chloride | 34.9 mmol, 9.5 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
product | 5-Methyl-2-(tri-n-butylstannyl)pyridine | 6.5 g, 58% | CC=1C=CC(=NC1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C6H6N.3C4H9.Sn/c1-6-3-2-4-7-5-6;3*1-3-4-2;/h2-3,5H,1H3;3*1,3-4H2,2H3;
